US08735384B2
A suspension of 2-bromo-3-methylbenzoic acid (2.07 g, 9.63 mmol) in DCM (48.1 mL) was cooled to 0° C. Oxalyl chloride (0.9 mL, 10.14 mmol) was added dropwise via syringe. After addition, the cooling bath was removed and the reaction mixture stirred overnight. The mixture was concentrated in vacuo to remove solvent and excess reagent, affording 2-bromo-3-methylbenzoyl chloride as a cloudy white oil.

reactant | 2-bromo-3-methylbenzoic acid | 9.63 mmol, 2.07 g | BrC1=C(C(=O)O)C=CC=C1C | C8H7BrO2
reactant | Oxalyl chloride | 10.14 mmol, 0.9 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 48.1 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-3-methylbenzoyl chloride | BrC1=C(C(=O)Cl)C=CC=C1C | C8H6BrClO
